US07183296B2
A mixture of 460 mg of [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-yl-]methanol, 481 mg of carbon tetrabromide and 380 mg of triphenylphosphine in 20 ml of dichloromethane was stirred at room temperature for 24 hours. The solvent was evaporated. The residue was purified by flash chromatography on silica gel using ethyl acetate/petroleum ether (bp 40–60° C.) (1:4) for the elution to give 392 mg of 4-bromoethyl-5-(3,5-dichloro-phenylsulfanyl)-1-ethyl-3-methyl-1H-pyrazole as a pale yellow oil. Mass spectrum (ES) m/z 317 [M−Br+H2O]+.

reactant | [5-(3,5-dichloro-phenylsulphanyl)-1-ethyl-3-methyl-1H-pyrazol-4-yl-]methanol | 460 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC)C)CO | C13H14Cl2N2OS
reactant | carbon tetrabromide | 481 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 380 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromoethyl-5-(3,5-dichloro-phenylsulfanyl)-1-ethyl-3-methyl-1H-pyrazole | 392 mg | BrCCC=1C(=NN(C1SC1=CC(=CC(=C1)Cl)Cl)CC)C | C14H15BrCl2N2S
